US09416132B2
83. N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)formamide (EX. 8-83)
A mixture of trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine (50 mg, 0.146 mmol) and ethyl formate (0.37 mL) in DMF (1.2 mL) was heated at 90° C. for 6 h. LCMS showed the reaction was complete. The mixture was concentrated in vacuo and purified b prep-HPLC to give EX. 8-83 (22 mg, 41%) as an off-white solid.

reactant | trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine | 0.146 mmol, 50 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)N | C18H20ClN5
reactant | ethyl formate | 0.37 mL | C(=O)OCC | C3H6O2
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)formamide | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)NC=O | C19H20ClN5O
